US07504420B2
Dess-Martin periodinane (3 gm, 7.07 mmol) was added to (3-methoxy-4-methylphenyl)methanol (1 gm, 6.57 mmol) in CH2Cl2 (35 ml) at 0° C. After stirring at 0° C. for 0.5 h, some of the CH2Cl2 was removed, reaction mixture was diluted with ether, washed with sodium bicarbonate solution, sodium thiosulfate solution and water. Organic layer was dried and evaporated to obtain 3-methoxy-4-methylbenzaldehyde in quantitative yield.

reactant | Dess-Martin periodinane | 7.07 mmol, 3 gm | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (3-methoxy-4-methylphenyl)methanol | 6.57 mmol, 1 gm | COC=1C=C(C=CC1C)CO | C9H12O2
solvent | CH2Cl2 | 35 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 3-methoxy-4-methylbenzaldehyde | quantitative yield | COC=1C=C(C=O)C=CC1C | C9H10O2
